US08110580B2
7-Bromo-thieno[3,2-b]pyridine
Heat thieno[3,2-b]pyridin-7-ol (5.00 g, 33 mmol) and phosphorus oxybromide (50 g, 174 mmol) together at 110° C. for 3 h. Pour the hot reaction mixture into a mixture of ice and 5 N NaOH and extract with CH2Cl2. Dry the organic portion over Na2SO4 and evaporate. Purify the resulting crude material using a silica gel chromatography column (hexane:EtOAC=3:1) to give the title compound (4.19 g, 59%). ES/MS m/z (81Br) 215 (M+).

reactant | thieno[3,2-b]pyridin-7-ol | 33 mmol, 5.00 g | S1C=CC2=NC=CC(=C21)O | C7H5NOS
reactant | phosphorus oxybromide | 174 mmol, 50 g | P(=O)(Br)(Br)Br | Br3OP
reactant | NaOH | 5 N | [OH-].[Na+]
product | 7-Bromo-thieno[3,2-b]pyridine | 4.19 g, 59% | BrC1=C2C(=NC=C1)C=CS2 | C7H4BrNS
